US07666888B2
1-{[3-(4-methoxyphenyl)isoxazol-4-yl]carbonyl}-5-methyl-3-phenylpyrrolidin-3-ol
A solution of 3-(4-methoxyphenyl)isoxazole-4-carboxylic acid (7 mg, 0.03 mmol), N-ethyl-N-isopropylpropan-2-amine (16 μL, 0.09 mmol, 3 equ.) and TBTU (12 mg, 0.036 mmol, 1.2 equ.) in DMF (0.3 mL) was added to 5-methyl-3-phenylpyrrolidin-3-ol (5 mg, 0.03 mmol). After 1 h at rt the crude product was purified by RP-HPLC. The pure fractions were basified (NaHCO3) and extracted with ethyl acetate, dried (Na2SO4), evaporated and dried in vacuum to yield the title compound (6 mg). MS (ESI, pos. ion) m/z: calcd for C22H22N2O4: 378.1580, found 378.1580.

reactant | 3-(4-methoxyphenyl)isoxazole-4-carboxylic acid | 0.03 mmol, 7 mg | COC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C11H9NO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.09 mmol, 16 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.036 mmol, 12 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 5-methyl-3-phenylpyrrolidin-3-ol | 0.03 mmol, 5 mg | CC1CC(CN1)(O)C1=CC=CC=C1 | C11H15NO
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 1-{[3-(4-methoxyphenyl)isoxazol-4-yl]carbonyl}-5-methyl-3-phenylpyrrolidin-3-ol | 6 mg | COC1=CC=C(C=C1)C1=NOC=C1C(=O)N1CC(CC1C)(O)C1=CC=CC=C1 | C22H22N2O4
